US08648087B2
Step D: Preparation of [1,2,4]triazolo[4,3-a]pyridin-7-ol:
To a solution of 7-(benzyloxy)-[1,2,4]triazolo[4,3-a]pyridine (0.512 g, 2.27 mmol) in ethanol (30 mL) was added Pd/C (0.5 g). After stirring under a hydrogen balloon for 3 hours, the mixture was filtered through celite and washed with ethanol (30 mL). The filtrate was concentrated under reduced pressure and chromatographed (20:1 dichloromethane/methanol) to provide the product.

reactant | 7-(benzyloxy)-[1,2,4]triazolo[4,3-a]pyridine | 2.27 mmol, 0.512 g | C(C1=CC=CC=C1)OC1=CC=2N(C=C1)C=NN2 | C13H11N3O
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | [1,2,4]triazolo[4,3-a]pyridin-7-ol | N=1N=CN2C1C=C(C=C2)O | C6H5N3O
